US06372933B1
6-Bromo-2(3H)-benzoxazolone
To a solution of glacial acetic acid (1500 ml) was added sodium acetate (222 g, 2.70 mole) and 2-benzoxazolinone (300 g, 2.22 mole). The suspension was cooled to 15° C. bromine (118 ml, 2.29 mole) added dropwise over 1 h and the mixture stirred for 12 h at ambient temperature. The solids were then filtered, washed with H2O (3×500 ml) and dried under vacuum to give the title compound as a white solid (374 g, 89.7%): mp 186.0-187.0° C.: 1H NMR (DMSO-d6) δ 11.8 (s, 1 H), 7.6 (s, 1 H), 7.3 (d, J=8.0 Hz, 1 H), 7.0 (d, J=8.0 Hz, 1 H).

reactant | sodium acetate | 2.70 mole, 222 g | C(C)(=O)[O-].[Na+]
reactant | 2-benzoxazolinone | 2.22 mole, 300 g | O1C(NC2=C1C=CC=C2)=O | C7H5NO2
reactant | bromine | 2.29 mole, 118 ml | BrBr | Br2
solvent | acetic acid | 1500 ml | C(C)(=O)O | C2H4O2
product | 6-Bromo-2(3H)-benzoxazolone | 374 g, 89.7% | BrC1=CC2=C(NC(O2)=O)C=C1 | C7H4BrNO2
